US06255285B1
The N-[2-(3-tert-butyl-4-hydroxyphenyl)-1-methylethyl]-2-[N-(N-Boc-phenylalanyl)-N-methylamino]-3-methylbutanamide (333 mg) was dissolved in methylene chloride (4 ml) and, after adding TFA (2 ml), the solution was stirred at room temperature for 10 minutes. The solvent was distilled off under reduced pressure and the resulting residue was diluted with methylene chloride and washed with saturated aqueous NaHCO3. The resulting organic layer was concentrated under reduced pressure and the residue was subjected to silica gel column chromatography (eluting solvent consisting of chloroform, methanol and aqueous ammonia at a ratio of 75:1:0.1) to yield N-[2-(3-tert-butyl-4-hydroxyphenyl)-1-methylethyl]-3-methyl-2-(N-methyl-N-phenylalanylamino)butanamide in the amount of 164 mg (60%).

reactant | N-[2-(3-tert-butyl-4-hydroxyphenyl)-1-methylethyl]-2-[N-(N-Boc-phenylalanyl)-N-methylamino]-3-methylbutanamide | 333 mg | C(C)(C)(C)C=1C=C(C=CC1O)CC(C)NC(C(C(C)C)N(C)C([C@@H](NC(=O)OC(C)(C)C)CC1=CC=CC=C1)=O)=O | C33H49N3O5
reactant | TFA | 2 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | N-[2-(3-tert-butyl-4-hydroxyphenyl)-1-methylethyl]-3-methyl-2-(N-methyl-N-phenylalanylamino)butanamide | C(C)(C)(C)C=1C=C(C=CC1O)CC(C)NC(C(C(C)C)N(C([C@@H](N)CC1=CC=CC=C1)=O)C)=O | C28H41N3O3
